US09029538B2
1-Ethyl-3-(4-fluoro-phenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [4-(6,8-dimethoxy-quinolin-4-yloxy)-phenyl]-amide.
This compound was synthesized using 4-(6,8-dimethoxy-quinolin-4-yloxy)-phenylamine and 1-ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid using the procedure for example 1. mp=127-9° C.; LCMS m/z=557 (M+1); 1H NMR (DMSO) δ: 10.93 (s, 1H), 8.87 (s, 1H), 8.45 (d, 1H, J=5 Hz), 7.79 (d, 2H, J=8.8 Hz), 7.41-7.45 (m, 2H), 7.33-7.37 (m, 2H), 7.24- (d, 2H, J=8.8 Hz), 7.10 (d, 1H, J=2.3 Hz), 6.86 (d, 1H, J=2.3 Hz), 6.61 (d, 1H, J=5 Hz), 4.01 (q, 2H, J=7 Hz), 3.94 (s, 3H), 3.89 (s, 3H), 1.29 (t, 3H, J=7 Hz).

reactant | 4-(6,8-dimethoxy-quinolin-4-yloxy)-phenylamine | COC=1C=C2C(=CC=NC2=C(C1)OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 1-ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | C(C)N1C(N(C(C(=C1)C(=O)O)=O)C1=CC=C(C=C1)F)=O | C13H11FN2O4
product | 1-Ethyl-3-(4-fluoro-phenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [4-(6,8-dimethoxy-quinolin-4-yloxy)-phenyl]-amide | COC=1C=C2C(=CC=NC2=C(C1)OC)OC1=CC=C(C=C1)NC(=O)C=1C(N(C(N(C1)CC)=O)C1=CC=C(C=C1)F)=O | C30H25FN4O6
